US04115575
74 g of 2,3-dichloro-pyrazine are added dropwise over the course of 15 minutes, whilst stirring, to 350 ml of a 40% strength aqueous solution of dimethylamine. Whilst doing so, the reaction temperature is kept at 30° C. by cooling. When the exothermic reaction has subsided the mixture is stirred for a further 15 hours at room temperature. The reaction mixture is then extracted by shaking with ether. The ether extracts are washed with water until neutral, dried over sodium sulphate and evaporated in a waterpump vacuum. The residue is distilled in a waterpump vacuum. 2-Chloro-3-dimethylamino-pyrazine, boiling point 100°-102° C./10 mm Hg, is thus obtained.

reactant | 2,3-dichloro-pyrazine | 74 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | dimethylamine | CNC | C2H7N
product | 2-Chloro-3-dimethylamino-pyrazine | ClC1=NC=CN=C1N(C)C | C6H8ClN3
